US06956047B1
N-Butyl-N-ethyl-2,5,N′-trimethyl-N′-(2,4,6-trimethylphenyl)-pyrimidine-4,6-diamine
A mixture of (6-chloro-2,5-dimethyl-pyrimidin-4-yl)-methyl-(2,4,6-trimethylphenyl)-amine (200 mg) and N-butyl-ethylamine (0.3 ml) in 1 ml of DMSO was heated in oil bath of 160° C. for 15 hours. The mixture was quenched with water and extracted with ethyl acetate. The organic layer was separated, dried and concentrated to give the crude material. After silica gel column purification using chloroform as eluent, the title compound was obtained as an oil. 1H NMR (CDCl3) δ 6.83 (s, 2H), 3.22 (s, 3H), 3.12 (m, 4H), 2.44 (s, 3H), 2.26 (s, 3H), 2.01 (s, 6H), 1.35-1.42 (m, 2H), 1.1-1.25 (m, 2H), 1.00 (t, 3H), 0.90 (t, 3H) ppm.

reactant | (6-chloro-2,5-dimethyl-pyrimidin-4-yl)-methyl-(2,4,6-trimethylphenyl)-amine | 200 mg | ClC1=C(C(=NC(=N1)C)N(C1=C(C=C(C=C1C)C)C)C)C | C16H20ClN3
reactant | N-butyl-ethylamine | 0.3 ml | C(CCC)NCC | C6H15N
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | N-Butyl-N-ethyl-2,5,N′-trimethyl-N′-(2,4,6-trimethylphenyl)-pyrimidine-4,6-diamine | C(CCC)N(C1=NC(=NC(=C1C)N(C1=C(C=C(C=C1C)C)C)C)C)CC | C22H34N4
